US06800651B2
N-(4-(4-Cyanophenyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine
A solution of N-(4-(4-cyanophenyl)phenyl)-N-ethylsulfonylamine (200 mg, 0.7 mmol), 3-picolyl chloride hydrochloride (123 mg, 0.75 mmol), and cesium carbonate (2.3 g, 7.0 mmol) was dissolved in 10 ml DMF and stirred for 18 h at room temperature. The mixture was diluted with 80 ml ethyl acetate, 20 ml water. The organic phase was separated and washed twice with 25 ml of water. The organic phase was then dried over sodium sulfate, filtered, and concentrated in vacuo to an oily residue. The residue was flushed through a 20 g mega bond elut silica column with 0 to 5% methanol/ethyl acetate. The desired fractions were concentrated in vacuo to afford the title compound. 1H NMR: 8.55 (bs,1H), 8.41 (bs,1H), 7.78 (d,1H,J=8 Hz), 7.72 (d,2H,J=12 Hz), 7.6 (d,2H,J=12 Hz), 7.52 (d,2H,J=12 Hz), 7.35 (d,2H,J=12 Hz), 7.29 (m,1H), 4.95 (s,1H), 3.15 (q,2H,J=8 Hz), 1.45 (t,3H,J=8 Hz). MS calcd. 377.5; MS (M+1) 378.2.

reactant | N-(4-(4-cyanophenyl)phenyl)-N-ethylsulfonylamine | 0.7 mmol, 200 mg | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)NS(=O)(=O)CC | C15H14N2O2S
reactant | 3-picolyl chloride hydrochloride | 0.75 mmol, 123 mg | Cl.N1=CC(=CC=C1)CCl
reactant | cesium carbonate | 7.0 mmol, 2.3 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
product | N-(4-(4-Cyanophenyl)phenyl)-N-(ethanesulfonyl)pyrid-3-ylmethylamine | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)N(S(=O)(=O)CC)CC=1C=NC=CC1 | C21H19N3O2S
